US06962914B2
To a solution of 4[5-chloro-3-[2-(cyclopentylamino)-4-pyrimidinyl]-7-(cyclopropylamino)pyrazolo[1,5-a]pyridin-2-yl]phenol (110 mg, 0.24 mmol) in acetonitrile was added bromomethyl cyclopropane (96 mg, 0.72 mmol) and cesium carbonate (85 mg, 0.26 mmol). The reaction mixture was heated at reflux for 6 hours. After cooling to room temperature, ethyl acetate was added to the reaction mixture. The organic phase was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration, followed by flash chromatography (2:5 hexanes/ethyl acetate), gave 5-chloro-3-[2-(cyclopentylamino)-4-pyrimidinyl]-N-cyclopropyl-2-[4-(cyclopropylmethoxy)phenyl]pyrazolo[1,5-a]pyridin-7-amine (75 mg, 61%) as a yellow solid. 1H NMR (CDCl3) δ 7.97 (d, 1H), 7.90 (s, 1H), 7.50 (d, 2H), 6.95 (d, 2H), 6.38 (s, 1H), 6.32 (d, 1H), 6.28 (d, 1H), 5.13 (d, 1H), 4.36 (m, 1H), 3.85 (d, 2H), 2.64 (m, 1H), 2.10 (m, 2H), 1.80-1.66 (m, 4H), 1.55 (m, 2H), 1.30 (m, 1H), 0.88 (m, 2H), 0.74 (m, 2H), 0.66 (m, 2H), 0.39 (m, 2H). MS m/z 515 (M+1).

reactant | 4[5-chloro-3-[2-(cyclopentylamino)-4-pyrimidinyl]-7-(cyclopropylamino)pyrazolo[1,5-a]pyridin-2-yl]phenol | 0.24 mmol, 110 mg | ClC1=CC=2N(C(=C1)NC1CC1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)O | C25H25ClN6O
reactant | bromomethyl cyclopropane | 0.72 mmol, 96 mg | BrCC1CC1 | C4H7Br
reactant | cesium carbonate | 0.26 mmol, 85 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-chloro-3-[2-(cyclopentylamino)-4-pyrimidinyl]-N-cyclopropyl-2-[4-(cyclopropylmethoxy)phenyl]pyrazolo[1,5-a]pyridin-7-amine | 75 mg, 61% | ClC1=CC=2N(C(=C1)NC1CC1)N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OCC2CC2 | C29H31ClN6O
